US06225306B1
(2R,11aS)-2-(t-Butyldimethylsilyloxy)-1,2,3,10,11,11a-Hexahydro-5H-Pyrrolo[2,1-c][1,4]Benzodiazepin-5-One
A solution of (2R,11aS)-2-(tert-butyldimethylsilyloxy)-1,2,3,10,11,11a-hexahydro-5H-pyrrolo[2,1-c][1,4]benzodiazepin-5,11-dione (34.6 g) in tetrahydrofuran (100 ml) was dropwise added to a suspension of lithium aluminum hydride (4.2 g) in tetrahydrofuran (200 ml) at 0° C. over 15 minutes in a nitrogen gas atmosphere, followed by stirring at room temperature for one hour and at 50° C. for one hour. After ice-cooling the reaction solution, 30 ml of ethyl acetate and 8 ml of a saturated aqueous ammonium chloride solution were added to the reaction solution, the mixture was stirred for 30 minutes and the precipitates separated out were filtered off. The filtrate was dried, concentrated under reduced pressure and the resulting residue was recrystallized from ethyl acetate to give 18.4 g (yield 55.3%) of the title compound.

reactant | (2R,11aS)-2-(tert-butyldimethylsilyloxy)-1,2,3,10,11,11a-hexahydro-5H-pyrrolo[2,1-c][1,4]benzodiazepin-5,11-dione | 34.6 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H]2C(NC3=C(C(N2C1)=O)C=CC=C3)=O | C18H26N2O3Si
reactant | lithium aluminum hydride | 4.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
reactant | ammonium chloride | 8 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | (2R,11aS)-2-(t-Butyldimethylsilyloxy)-1,2,3,10,11,11a-Hexahydro-5H-Pyrrolo[2,1-c][1,4]Benzodiazepin-5-One | 18.4 g, yield 55.3% | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H]2CNC3=C(C(N2C1)=O)C=CC=C3 | C18H28N2O2Si
